US07981896B2
4-(5-Styryl-3-trifluoromethylpyrazol-1-yl)phenol.
1-(4-Methoxyphenyl)-5-styryl-3-trifluoromethyl-1H-pyrazole (0.14 g, 0.4 mmol) was dissolved in dichloromethane (1.2 mL) and cooled to −40° C. Boron tribromide (1.2 mL, 1 M in dichloromethane, 1.2 mmol) was added, and the reaction was stirred overnight, warming up to room temperature. Saturated sodium bicarbonate solution was added, and the mixture was extracted with ethyl acetate. The extracts were dried over MgSO4 and concentrated. The reaction was assumed to be quantitative. LC-MS (C18H13F3N2O calculated 330) m/z 331 (M+H).

reactant | 1-(4-Methoxyphenyl)-5-styryl-3-trifluoromethyl-1H-pyrazole | 0.4 mmol, 0.14 g | COC1=CC=C(C=C1)N1N=C(C=C1C=CC1=CC=CC=C1)C(F)(F)F | C19H15F3N2O
reactant | Boron tribromide | 1.2 mmol, 1 M, 1.2 mL | B(Br)(Br)Br | BBr3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 1.2 mL | ClCCl | CH2Cl2
product | 4-(5-Styryl-3-trifluoromethylpyrazol-1-yl)phenol | C(=CC1=CC=CC=C1)C1=CC(=NN1C1=CC=C(C=C1)O)C(F)(F)F | C18H13F3N2O
